US07235581B2
d) (RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Amide
The title compound is prepared in analogy to Example 3d) from (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid and ammonia. Yield: 18% of a brownish solid. MS: m/e=329.3 (M++H).

reactant | (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid | FC1=CC=C(COC2=CC=C(C=C2)N2C(C(CC2)C(=O)O)=O)C=C1 | C18H16FNO4
reactant | ammonia | N | H3N
product | (RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Amide | FC1=CC=C(COC2=CC=C(C=C2)N2C(C(CC2)C(=O)N)=O)C=C1 | C18H17FN2O3
